US07790898B2
1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-3phenyl-propane-1-one
The compound of Example 53 was prepared according to the general preparation protocol A from 3-phenyl-propionyl chloride and 3-(3-methoxy-phenyl)-piperidine-3-ol.

reactant | 3-phenyl-propionyl chloride | C1(=CC=CC=C1)CCC(=O)Cl | C9H9ClO
reactant | 3-(3-methoxy-phenyl)-piperidine-3-ol | COC=1C=C(C=CC1)C1(CNCCC1)O | C12H17NO2
product | 1-[3-hydroxy-3-(3-methoxyphenyl)-piperidine-1-yl]-3phenyl-propane-1-one | OC1(CN(CCC1)C(CCC1=CC=CC=C1)=O)C1=CC(=CC=C1)OC | C21H25NO3
